US04643758
A solution of 9.9 g of malononitrile, 26.25 g of 3,3-dimethyl-2-butanone, 1.45 g of ammonium acetate and 2.25 g of acetic acid dissolved in 100 ml of toluene was refluxed for about 16 hours with the aid of a Dean-Stark Trap. The reaction mixture was diluted with 120 ml of toluene and washed with 200 ml water. The organic phase was collected, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum. The resulting residue was distilled under vacuum to afford 15.2 g of 2-(1,1-dimethylethyl)-1,1-dicyano-1-propene as an oil. Yield 68%.

reactant | malononitrile | 9.9 g | C(CC#N)#N | C3H2N2
reactant | 3,3-dimethyl-2-butanone | 26.25 g | CC(C(C)=O)(C)C | C6H12O
reactant | ammonium acetate | 1.45 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 2.25 g | C(C)(=O)O | C2H4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,1-dimethylethyl)-1,1-dicyano-1-propene | 15.2 g, Yield 68% | CC(C)(C)C(=C(C#N)C#N)C | C9H12N2
